US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-5-ethynyl-2-hydroxybenzamide (Compound No. 64)
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-[(trimethylsilyl)ethynyl]benzamide (233 mg, 0.5 mmol) was dissolved in methanol (1 mL). 2 N sodium hydroxide (1 mL) was added, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 2 N hydrochloric acid and extracted with ethyl acetate. After the ethyl acetate layer was washed with water and brine one after another, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was crystallized from ethanol-water to give the title compound (67 mg, 35.9%) as a light gray crystal.

reactant | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-[(trimethylsilyl)ethynyl]benzamide | 0.5 mmol, 233 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C#C[Si](C)(C)C)O)=O)(F)F | C20H17F6NO2Si
reactant | sodium hydroxide | 2 N, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | N-[3,5-Bis(trifluoromethyl)phenyl]-5-ethynyl-2-hydroxybenzamide | 67 mg, 35.9% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C#C)O)=O)(F)F | C17H9F6NO2
